US08053438B2
STEP 4: (1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)METHANONE
To a solution of compound (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (100 g, 0.42 mol) in anhydrous DMF (1.1 L) was added K2CO3 (145 g, 1.05 mol, 2.5 eq.) and 2,3-dichloropyrazine (75.08 g, 0.50 mol, 1.2 eq.). The reaction was stirred at 90° C. for 18 h. LCMS analysis of the reaction mixture showed that the reaction was complete. The reaction mixture was cooled to ambient temperature and ice-water (3 L) was added, stirred for 30 minutes. The resulting solid was filtered and washed with water (3 L) followed by MTBE (2×500 mL) and dried under vacuum. The solid was treated with 50% MTBE/DCM at 50° C. for 1 h and filtered hot, washed with 50% MTBE/DCM and dried under vacuum overnight to obtain product. Mother liquor was refluxed with 50% MTBE/DCM for 2 h and filtered hot and washed with 50% MTBE/DCM to get another batch of product. MS (ESI, pos. ion) m/z: 351.0 (M+1). IC50 (uM) +.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 0.42 mol, 100 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | K2CO3 | 1.05 mol, 145 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-dichloropyrazine | 0.50 mol, 75.08 g, 1.2 eq. | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | MTBE DCM | CC(C)(C)OC.C(Cl)Cl
solvent | DMF | 1.1 L | CN(C)C=O | C3H7NO
product | (1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
